US07612075B2
To a solution of 3-oxopiperazine-1-carboxylic acid benzyl ester (4.68 g, 20 mmol) in 20 mL of DMF at) 0° C. is added sodium hydride (60%, 880 mg, 22 mmol). The suspension is stirred at ambient temperature for one t-butyl bromoacetate (4.68 g, 24 mmol) is added. The resulting mixture is stirred at ambient temperature overnight. After dilution with ethyl acetate (200 mL), the mixture is washed with brine (3×50 mL). The crude residue obtained from concentration of the organic phase is chromatographied on silica gel (30% ethyl acetate/Hexane) to give 5.57 g (80%) of 4-tert-butoxycarbonylmethyl-3-oxopiperazine-1-carboxylic acid benzyl ester as a white solid.

reactant | 3-oxopiperazine-1-carboxylic acid benzyl ester | 20 mmol, 4.68 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | t-butyl bromoacetate | 24 mmol, 4.68 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-tert-butoxycarbonylmethyl-3-oxopiperazine-1-carboxylic acid benzyl ester | 5.57 g, 80% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC(=O)OC(C)(C)C)=O | C18H24N2O5
